US05254584
A mixture of 3-formyl-5-methylbenzoic acid (75.0 g, 0.457 moles), thionyl chloride (65 g, 0.0547 moles), and dimethylformamide (1 ml), in toluene (500 ml) was slowly warmed to 70° C. and stirred at that temperature for 2 h. The toluene was eliminated in a rotavap to yield 3-formyl-5-methylbenzoic chloride used in the next step as such.

reactant | 3-formyl-5-methylbenzoic acid | 0.457 moles, 75.0 g | C(=O)C=1C=C(C(=O)O)C=C(C1)C | C9H8O3
reactant | thionyl chloride | 0.0547 moles, 65 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-formyl-5-methylbenzoic chloride | C(=O)C=1C=C(C(=O)Cl)C=C(C1)C | C9H7ClO2
